US04910204
A. 5-Acetoxy-2-amino-6-methyl-4-pyrimidone
2-Amino-5-hydroxy-6-methyl-4-pyrimidone (0.88 g, prepared as described in Hull, J. Chem. Soc., 2033 (1956)), was treated with pyridine (5 ml) and acetic anhydride (0.5 ml) at 0° C. The reaction mixture was stirred at 25° C. for 18 hours. Filtration provided a white solid (0.64 g). Recrystallization (absolute ethanol) afforded a white crystalline solid (m.p.: 273°-276° C.).

reactant | 2-Amino-5-hydroxy-6-methyl-4-pyrimidone | 0.88 g | NC1=NC(=C(C(N1)=O)O)C | C5H7N3O2
reactant | acetic anhydride | 0.5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 5-Acetoxy-2-amino-6-methyl-4-pyrimidone | 0.64 g | C(C)(=O)OC=1C(NC(=NC1C)N)=O | C7H9N3O3
